US05556864
2(a) N,N-Dimethyl-3-[2-(4-phenylbutyl)phenoxy]propylamine
96 mg of sodium hydride (as a 55% w/w dispersion in mineral oil) were added, whilst ice-cooling and stirring, to a solution of 226 mg of 2-(4-phenylbutyl)phenol (prepared as described in Preparation 3) in 10 ml of dimethylacetamide, and the resulting mixture was stirred at the same temperature for 30 minutes. At the end of this time, 174 mg of 3-dimethylaminopropyl chloride hydrochloride were added, and the reaction mixture was stirred at 70° C. for 14 hours. It was then poured into ice-water, and the aqueous mixture was extracted with ethyl acetate. The extract was washed with a saturated aqueous solution of sodium chloride, dried over anhydrous sodium sulfate and concentrated by evaporation under reduced pressure. The oily residue was purified by column chromatography through silica gel, using a 10:1 by volume mixture of methylene chloride and methanol as the eluent, to give 210 mg (yield 67%) of the title compound as a pale yellow oil.

reactant | sodium hydride | 96 mg | [H-].[Na+]
reactant | 2-(4-phenylbutyl)phenol | 226 mg | C1(=CC=CC=C1)CCCCC1=C(C=CC=C1)O | C16H18O
reactant | 3-dimethylaminopropyl chloride hydrochloride | 174 mg | Cl.CN(CCCCl)C
solvent | dimethylacetamide | 10 ml | CC(=O)N(C)C | C4H9NO
product | N,N-Dimethyl-3-[2-(4-phenylbutyl)phenoxy]propylamine | 210 mg, yield 67% | CN(C)CCCOC1=C(C=CC=C1)CCCCC1=CC=CC=C1 | C21H29NO
